Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ previously healthy left-handed 
woman
who presents with acute onset headache and vomiting.  She 
reports
being in her usual state of health until late yesterday evening,
when she abruptly developed an occipital, pounding headache
described as a "heat" sensation radiating to bilateral frontal
regions.  The headache was worse when leaning over or lying 
down,
and was associated with one episode of vomiting.  Ms. ___
denies associated vision change, focal weakness, sensory
disturbance, speech difficulty, or gait disturbance.  She denies
a prior history of headaches, and denies prior transient
neurologic symptoms.  She denies a known history of hypertension
and reports that she follows with primary care provider.

Ms. ___ initially presented to ___ where
noncontrast head CT revealed bilateral intraventricular
hemorrhage.  She was subsequently transferred to the ___ ED
where she was started on a nicardipine infusion due to heart
rates in the mid ___.  Ms. ___ was evaluated by neurosurgery
who recommended no acute intervention.

ROS: On review of systems, Ms. ___ denies difficulty with
producing or comprehending speech, loss of vision, blurred
vision, vertigo, tinnitus, dysarthria, dysphagia, focal muscle
weakness, numbness, parasthesias, bowel or bladder incontinence,
gait disturbance, fevers, chills, dyspnea, chest discomfort,
abdominal pain, diarrhea, or changes in bowel or bladder habits.

 
Past Medical History:
Likely hypertension
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ON ADMISSION
============
Vitals:  T: 97.8  HR: 72  BP: 137/95  RR: 20  SpO2: 100% RA
 General:  Alert, cooperative, in NAD
 HEENT: NCAT, no oropharyngeal lesions, neck supple
 ___: RRR
 Pulmonary: No tachypnea or increased WOB
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Unable to name days
of week backwards. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. No dysarthria. Able
to follow both midline and appendicular commands.
- Cranial Nerves: PERRL 4->2 mm and brisk. EOMI, no nystagmus.
V1-V3 without deficits to light touch bilaterally. Slight R 
NLFF.
Hearing intact to finger rub bilaterally.  Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.
- Motor:  Normal bulk and tone. No pronator drift. No tremor or
asterixis.
   [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
 L   5     5    5    5    ___    5     5   5    5  
 R   5     5    5    5    ___    5     5   5    5  
- Reflexes: 
    [Bic] [Tri] [___] [Quad] [Gastroc]
  L  2+    2+     2+      2+       1
  R  2+    2+     2+      2+       1  
 Plantar response withdrawal bilaterally. 
- Sensory: No deficits to light touch or pinprick bilaterally. 
No extinction to DSS.
- Coordination: No dysmetria with finger to nose testing
bilaterally. Subtle DDK on R.
- Gait: Deferred.

ON DISCHARGE
============
Vitals: Tm 98.3, BP 117/63-148/84, HR 55-81, RR ___, SpO2 100%
 General:  Alert, cooperative, in NAD
 HEENT: NCAT, no oropharyngeal lesions, neck supple
 ___: RRR
 Pulmonary: No tachypnea or increased WOB
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Attentive to
interview. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. No dysarthria. Able
to follow both midline and appendicular commands.
- Cranial Nerves: PERRL 4->2 mm and brisk. EOMI, no nystagmus.
V1-V3 without deficits to light touch bilaterally. Slight R 
NLFF.
Hearing intact to finger rub bilaterally.  Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.
- Motor:  Normal bulk and tone. Slightly exaggerated rebound
bilaterally. No pronator drift. No tremor or
asterixis.
   [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
 L   5     5    5    5    ___    5     5   5    5  
 R   5     5    5    5    ___    5     5   5    5  
- Reflexes: deferred.
- Sensory: No deficits to light touch or pinprick bilaterally. 
No extinction to DSS.
- Coordination: No dysmetria with finger to nose testing
bilaterally. 
- Gait: Deferred.

 
Pertinent Results:
IMAGING
=======
___ at ___, on personal review, notable for 
right caudate IPH with IVE.

___ 1:56 AM CTA HEAD AND CTA NECK (Preliminary)
NONCONTRAST HEAD CT: 
No acute intracranial abnormality. 
  
CTA HEAD NECK: 
The circle of ___ and its principal branches are patent. No 
evidence of aneurysm. The dural venous sinuses are patent. The 
carotid and vertebral arteries are patent. 

MRI head w/ contrast ___:
5-10 mm hemorrhagic focus associated with vasogenic edema within 
the head of the right caudate nucleus, with possible minimal 
extension of blood products into the frontal horn of the right 
lateral ventricle, and redemonstration of blood products within 
the occipital horn of the left lateral ventricle.  No nodular 
enhancement or flow voids are identified.  Differential 
considerations include small vascular lesion such as a cavernous 
malformation with acute hemorrhage, hemorrhagic infarct, and 
hemorrhagic metastasis.  Recommend follow-up contrast brain MRI 
in ___ months or earlier as clinically indicated. 

TTE:
The left atrial volume index is normal. No atrial septal defect 
or patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. The estimated right atrial pressure is 
___ mmHg. Normal left ventricular wall thickness, cavity size, 
and regional/global systolic function (biplane LVEF = 68 %). 
Transmitral and tissue Doppler imaging suggests normal diastolic 
function, and a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are structurally normal. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. The end-diastolic 
pulmonic regurgitation velocity is increased suggesting 
pulmonary artery diastolic hypertension. There is no pericardial 
effusion. 
 IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Mild mitral 
regurgitation with normal valve morphology. Pulmonary artery 
hypertension. 
 
Brief Hospital Course:
Outpatient Providers: Ms. ___ is a ___ previously 
healthy left-handed woman who presents with acute onset headache 
and vomiting, found to have R caudate IPH with IVE on imaging. 
Based on location of the hemorrhage, initial suspicion was for 
hypertensive etiology. However, an MRI revealed an area of 
diffusion restriction next to the area of hemorrhage. Therefore, 
secondary hemorrhagic conversion of her infarct was also 
considered.  A TTE did not reveal any intracardiac thrombus or 
PFO/ASD. Telemetry did not capture atrial fibrillation. 

 Another consideration is hypertension/small vessel disease, 
especially given her report of intercourse just prior to symptom 
onset, as well as urine tox positive for amphetamines. She does 
endorse occasional marijuana use (which could theoretically be 
laced with another substance) but denies any other illicit 
substance use or use of OTC cold medicines.

 Her stroke risk factors include the following: 
 1) Hypertension
 2) Hyperlipidemia

TRANSITIONAL ISSUES:
-Needs ___ monitor to evaluate for atrial 
fibrillation as cause of stroke. She should call ___ to 
schedule. 
-Needs repeat MRI in ___ months to evaluate for any underlying 
mass which may have led to bleeding. This is scheduled for ___.
-Consider repeat thyroid studies. TSH found to be low at 0.26
-Should follow up with Neurology after MRI in ___. She will 
need to be referred to an in-network Neurologist.
-Ongoing counseling regarding marijuana use.  

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? () Yes - (x) No - due to presence of hemorrhage  
 4. LDL documented? (x) Yes (LDL = 178) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 10. Discharged on antithrombotic therapy? x() Yes [Type: (x) 
Antiplatelet - Aspirin () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 AHA/ASA Core Measures for Intracerebral Hemorrhage  
 1. Dysphagia screening before any PO intake? (x) Yes - () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
3.  Labetalol 100 mg PO BID 
RX *labetalol 100 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke, with hemorrhagic conversion
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,
  
You were hospitalized due to symptoms of headache and vomiting, 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked. Furthermore, you had some bleeding at the site of your 
stroke. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors.

Your risk factors are:  
High blood pressure
High cholesterol
  
We are changing your medications as follows:  
 Start Aspirin 81mg daily
 Start Labetalol 200mg twice per day
 Start Atorvastatin 40mg daily  

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below. 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___